US09447014B2
Method of making Amorphous Form of Bimatoprost Tromethamine Salt:
Attempts were made to prepare amorphous tromethamine salt of bimatoprost acid by freeze drying (using a mixture of tert-butanol/water (50/50 v/v) as solvent), rotary evaporation and quenching the melt. The most suitable method, quenching the melt, was selected for the preparation of the amorphous material, followed by characterization before using this material as input material for the polymorphism study. In an attempt, Tromethamine Salt of Bimatoprost acid was heated in a vacuum oven at 120° C., the temperature was maintained for 10 minutes to melt the product. The samples were quenched in air and then cooled to −20° C. (freezer) to obtain an amorphous glass. The glass transition (Tg) was determined at ca. 29° C. by modulated differential scanning calorimetry (MDSC).

reactant | tromethamine | NC(CO)(CO)CO | C4H11NO3
reactant | bimatoprost | CCNC(=O)CCC/C=C\C[C@H]1[C@H](C[C@H]([C@@H]1/C=C/[C@H](CCC=2C=CC=CC2)O)O)O | C25H37NO4
product | Bimatoprost Tromethamine | CCNC(=O)CCC/C=C\C[C@H]1[C@H](C[C@H]([C@@H]1/C=C/[C@H](CCC=2C=CC=CC2)O)O)O.NC(CO)(CO)CO | InChI=1S/C25H37NO4.C4H11NO3/c1-2-26-25(30)13-9-4-3-8-12-21-22(24(29)18-23(21)28)17-16-20(27)15-14-19-10-6-5-7-11-19;5-4(1-6,2-7)3-8/h3,5-8,10-11,16-17,20-24,27-29H,2,4,9,12-15,18H2,1H3,(H,26,30);6-8H,1-3,5H2/b8-3-,17-16+;/t20-,21+,22+,23-,24+;/m0./s1
